US04590275
A solution of 12.4 g (67 mmol) of 2-chloro-5-nitrobenzaldehyde and 10.0 g (67 mmol) of freshly distilled 2-methylbenzothiazole in 60 ml of acetic anhydride was refluxed for 5 h. The precipitated yellow solid was collected by filtration and recrystallized from toluene to afford 14.9 g (70%) of 2-(2'-chloro-5'-nitrostyryl)benzothiazole (IIIa); mp 188°-189° C., UV λmaxEtOH nm (ε) 214(16808), 332.5(28445); 1H-NMR δTMSCDCl3 (ppm) 8.58 (d, J=2.7 Hz, 1H), 8.16-7.26 (complex pattern, 8H); 13C--NMRTMS δTMSDMSO-d6 (ppm) 165.0, 154.0, 147.1, 140.2, 135.3, 134.9, 131.1, 130.7, 127.3, 126.7, 126.0, 124.0, 123.6, 121.6, 121.0; IR νmaxKbr (cm-1) 1521.8, 1455.4, 1342.4, 1116.3, 1046.3, 951.3, 873.34, 826.1, 724.1, 737.4, 728.3. Anal. Calcd. for C15H9CiN2O2 : C, 56.87, H, 2.86, N, 8.84; Found: C, 56.84; H, 2.86, N, 8.73.

reactant | 2-chloro-5-nitrobenzaldehyde | 67 mmol, 12.4 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 2-methylbenzothiazole | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
solvent | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2'-chloro-5'-nitrostyryl)benzothiazole | 14.9 g, 70% | ClC1=C(C=CC=2SC3=C(N2)C=CC=C3)C=C(C=C1)[N+](=O)[O-] | C15H9ClN2O2S
